US05444071
4-[(2-Propylquinolin-4-yloxy)methyl]benzoic acid (240 mg) was added to a mixture of benzene sulphonamide (120 mg), 4-dimethylaminopyridine (90 mg) and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (150 mg) in dichloromethane (20 ml) and the mixture stirred overnight. Chloroform (20 ml) was added the mixture was washed successively with 1M citric acid solution (10 ml), water (2×10 ml), saturated sodium chloride solution (5 ml) and then dried (MgSO4). The solvent was removed by evaporation and the residue triturated with methanol to give 4-[(2-propylquinolin-4-yloxy)methyl]-N-phenylsulphonylbenzamide as a white powder (160 mg), m.p. 140° C. (dec.); NMR (d6 -DMSO): 0.95(t,3H), 1.79(m,2H), 2.88(t,2H), 5.5(s,2H), 7.14(s,1H), 7.5-7.7(m,6H), 7.78(dt,1H), 7.87-8.02(m,5H), 8.18(dd,1H); mass spectrum (-ve FAB, DMSO/Gly): 495 (M-H)- ; microanalysis found: C,66.1; H,5.4; N,5.8%; C26H24N2O4S.0.5H 2 O requires: C,66.5; H,5.3; N,6.0%.

reactant | 4-[(2-Propylquinolin-4-yloxy)methyl]benzoic acid | 240 mg | C(CC)C1=NC2=CC=CC=C2C(=C1)OCC1=CC=C(C(=O)O)C=C1 | C20H19NO3
reactant | benzene sulphonamide | 120 mg | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 150 mg | Cl.CN(CCCN=C=NCC)C
reactant | Chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-dimethylaminopyridine | 90 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-[(2-propylquinolin-4-yloxy)methyl]-N-phenylsulphonylbenzamide | 160 mg | C(CC)C1=NC2=CC=CC=C2C(=C1)OCC1=CC=C(C(=O)NS(=O)(=O)C2=CC=CC=C2)C=C1 | C26H24N2O4S
